US05547972
Bromine (139 g) was added dropwise with stirring to a solution of 3 molar sodium hydroxide (1712 ml) at 0° C. with stirring. When all the bromine had dissolved, 2-(3,4-dichlorophenyl)-2-methylpropionamide (201 g) was added in portions of 0° C. The mixture was stirred at 0° C. for 5 hours and then left to stand at 0° C. for 18 hours. The mixture was heated at 95° C. for 1 hour, then cooled and extracted with ether. The combined ether extracts were washed with 5M hydrochloric acid whereupon a solid precipitated. The solid was collected by filtration to give 2-(3,4-dichlorophenyl)-2-methylpropylamine hydrochloride, m.p. 238°-239° C.

reactant | Bromine | 139 g | BrBr | Br2
reactant | sodium hydroxide | 3 molar, 1712 ml | [OH-].[Na+]
reactant | 2-(3,4-dichlorophenyl)-2-methylpropionamide | 201 g | ClC=1C=C(C=CC1Cl)C(C(=O)N)(C)C | C10H11Cl2NO
product | 2-(3,4-dichlorophenyl)-2-methylpropylamine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C(CN)(C)C | InChI=1S/C10H13Cl2N.ClH/c1-10(2,6-13)7-3-4-8(11)9(12)5-7;/h3-5H,6,13H2,1-2H3;1H
